US08492582B2
1-(tert-Butoxycarbonyl)-4-hydroxypiperidine (0.047 g), cesium carbonate (0.075 g), 1,10-phenanthroline (4.2 mg), and copper(I) iodide (2.2 mg) were added to a toluene (1 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-iodobenzamido)-4-phenylbenzoate (0.070 g), followed by heating to reflux under a nitrogen atmosphere for 4 hours. The reaction mixture was cooled to room temperature, and then 1-(tert-butoxycarbonyl)-4-hydroxypiperidine (0.047 g), cesium carbonate (0.075 g), 1,10-phenanthroline (4.2 mg), and copper(I) iodide (2.2 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then 1,10-phenanthroline (4.2 mg) and copper(I) iodide (2.2 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 5 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 95-60% hexane/ethyl acetate] to obtain 0.074 g of tert-butyl 4-(2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)benzamido)-4-phenylbenzoyloxy)piperidine-1-carboxylate.

reactant | 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine | 0.047 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | cesium carbonate | 0.075 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 4.2 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | tert-butyl 2-(2-(benzyloxy)-5-iodobenzamido)-4-phenylbenzoate | 0.070 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)I | C31H28INO4
reactant | 1-(tert-butoxycarbonyl)-4-hydroxypiperidine | 0.047 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | cesium carbonate | 0.075 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 4.2 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | 1,10-phenanthroline | 4.2 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | copper(I) iodide | 2.2 mg | [Cu]I
catalyst | copper(I) iodide | 2.2 mg | [Cu]I
catalyst | copper(I) iodide | 2.2 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)benzamido)-4-phenylbenzoyloxy)piperidine-1-carboxylate | 0.074 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC3CCN(CC3)C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C47H55N3O9
